US04396704
3-Bromocarbazole (24.6 g, 0.1 mole) was dissolved in acetone. To it was added β-chloroethyltoluenesulfonate (31.68 g, 0.135 moles) and sodium hydroxide (13 g, 0.325 mole) dissolved in 10 ml of distilled water. The mixture was brought to reflux. After 24 hours, equal amounts of β-chloroethyltoluenesulfonate, sodium hydroxide, and water were added. Refluxing was continued until 3-bromo-9-(2-chloroethyl)-carbazole was formed in >95 percent yield as judged by GLPC analysis. The product was dissolved in a mixture of 250 ml diethyl ether and tetrahydrofuran (50:50 v/v) and washed successively with two 150 ml portions of distilled water and 100 ml saturated sodium chloride solution. The organic phase was separated and dried over sodium sulfate and filtered. Solvents were removed on a rotary evaporator at reduced pressure. The crude 3-bromo-9-(2-chloroethyl)carbazole was dissolved in 230 ml isopropanol. 8.4 g (0.15 mole) potassium hydroxide dissolved in 15 ml ethanol was added. The resulting solution was refluxed for 11/2 hours. 4.2 g of solid potassium hydroxide was then added, and refluxing was continued for an additional 11/2 hours. The solution was cooled in a freezer during which time a solid residue formed. After filtration, the solid was washed with water. Recrystallization from methanol gave 13.94 g 3-bromo-9-vinylcarbazole as pale yellow-white needles (mp 74-74.5 degrees Celsius).

reactant | 3-Bromocarbazole | 0.1 mole, 24.6 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | β-chloroethyltoluenesulfonate | 0.135 moles, 31.68 g | ClCCOS(=O)(=O)C=1C(=CC=CC1)C | C9H11ClO3S
reactant | sodium hydroxide | 0.325 mole, 13 g | [OH-].[Na+]
reactant | 3-bromo-9-(2-chloroethyl)-carbazole | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)CCCl | C14H11BrClN
reactant | potassium hydroxide | 0.15 mole, 8.4 g | [OH-].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-bromo-9-vinylcarbazole | 13.94 g, >95 percent yield | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C=C | C14H10BrN
